US05602277
A mixture of 2-(methanesulfonylamino)-5-(methoxycarbonyl)benzaldehyde (2.56 g, 0.01 mol) and hydroxylamine hydrochloride (0.87 g, 0.0125 mol) in ethanol (40 mL) was heated at reflux for 2 h. The mixture was filtered hot, and the filtrate was concentrated to dryness. The residue was suspended in water. The solid was collected by filtration and recrystallized from ethyl acetate-hexane to give 2.42 g (89%) of methyl 3-[(N-hydroxyimino)methyl]-4-[(methylsulfonyl)amino]benzoate as an off-white powder, mp 160° C.

reactant | 2-(methanesulfonylamino)-5-(methoxycarbonyl)benzaldehyde | 0.01 mol, 2.56 g | CS(=O)(=O)NC1=C(C=O)C=C(C=C1)C(=O)OC | C10H11NO5S
reactant | hydroxylamine hydrochloride | 0.0125 mol, 0.87 g | Cl.NO
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | methyl 3-[(N-hydroxyimino)methyl]-4-[(methylsulfonyl)amino]benzoate | 2.42 g, 89% | ON=CC=1C=C(C(=O)OC)C=CC1NS(=O)(=O)C | C10H12N2O5S
